US09120812B2
To a solution of 350.35 mg (1.18 mmol) of triphosgene in 6 ml of DCM is added in a single portion a suspension of 500 mg (1.18 mmol) of 4-(4-aminophenyl)-6-ethyl-8,8-dimethyl-2-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-7,8-dihydro-6H-9-oxa-1,3,6-triazabenzocyclohepten-5-one and 987.33 μl (7.08 mmol) of triethylamine in 6 ml of DCM. The resulting mixture is stirred for 20 minutes at room temperature. 607.12 μl (5.90 mmol) of 2,4-difluoroaniline are added. The precipitate obtained is filtered off, rinsed twice with MeOH and dried under reduced pressure to give 575 mg of 1-(2,4-difluorophenyl)-3-{4-[6-ethyl-8,8-dimethyl-2-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-5-oxo-5,6,7,8-tetrahydro-9-oxa-1,3,6-triazabenzocyclohepten-4-yl]phenyl}urea.

reactant | triphosgene | 1.18 mmol, 350.35 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 4-(4-aminophenyl)-6-ethyl-8,8-dimethyl-2-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-7,8-dihydro-6H-9-oxa-1,3,6-triazabenzocyclohepten-5-one | 1.18 mmol, 500 mg | NC1=CC=C(C=C1)C1=NC(=NC=2OC(CN(C(C21)=O)CC)(C)C)N2CC1CCC(C2)O1 | C23H29N5O3
reactant | triethylamine | 7.08 mmol, 987.33 μl | C(C)N(CC)CC | C6H15N
reactant | 2,4-difluoroaniline | 5.90 mmol, 607.12 μl | FC1=C(N)C=CC(=C1)F | C6H5F2N
solvent | DCM | 6 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 6 ml | C(Cl)Cl | CH2Cl2
product | 1-(2,4-difluorophenyl)-3-{4-[6-ethyl-8,8-dimethyl-2-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-5-oxo-5,6,7,8-tetrahydro-9-oxa-1,3,6-triazabenzocyclohepten-4-yl]phenyl}urea | 575 mg | FC1=C(C=CC(=C1)F)NC(=O)NC1=CC=C(C=C1)C1=NC(=NC=2OC(CN(C(C21)=O)CC)(C)C)N2CC1CCC(C2)O1 | C30H32F2N6O4
